US06825200B1
Benzyl [[(2S)-2-[(tert-butoxycarbonyl)amino]-3-(2-pyridyl)propanoyl]amino]acetate
To a solution of (2S)-2-[(tert-butoxycarbonyl)amino]-3-(2-pyridyl)propanoic acid (55.0 g), glycine benzyl ester tosylate (69.7 g), and diphenylphosphoryl azide (46.7 ml) in N,N-dimethylformamide (550 ml) was added dropwise N,N-diisopropylethylamine (75.6 ml) at 4° C. The mixture was warmed to room temperature and stirred for 3 hours. The resulting mixture was poured into ice-cold saturated aqueous sodium hydrogencarbonate solution (700 ml). The mixture was extracted twice with ethyl acetate (total 1.3 L) and washed successively with water (400 ml×2), saturated aqueous ammonium chloride solution (200 ml), aqueous sodium hydrogencarbonate solution (300 ml×2), and brine (40 ml). The organic layer was dried over anhydrous magnesium sulfate and concentrated to give the title compound (77.4 g) as pale brown crystals.

reactant | (2S)-2-[(tert-butoxycarbonyl)amino]-3-(2-pyridyl)propanoic acid | 55.0 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=NC=CC=C1 | C13H18N2O4
reactant | glycine benzyl ester tosylate | 69.7 g | S(=O)(=O)(O)C1=CC=C(C)C=C1.C(C1=CC=CC=C1)OC(CN)=O
reactant | diphenylphosphoryl azide | 46.7 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | N,N-diisopropylethylamine | 75.6 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 550 ml | CN(C=O)C | C3H7NO
product | Benzyl [[(2S)-2-[(tert-butoxycarbonyl)amino]-3-(2-pyridyl)propanoyl]amino]acetate | 77.4 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)NCC(=O)OCC1=CC=CC=C1)CC1=NC=CC=C1 | C22H27N3O5
